US07153863B2
To a cold (0° C.) solution of 4-iodo-2-(methylthio)pyrimidine (4.73 g, 21.2 mmol) in tetrahydrofuran (70 mL) was added copper (I) iodide (404 mg, 2.12 mmol), dichlorobistriphenylphosphine palladium (II) (744 mg, 1.06 mmol), and triethylamine (8.8 mL, 63.8 mmol). 4-Methyl-pentyne (5.0 mL, 42.5 mmol) was added dropwise to the reaction mixture and the resultant solution was stirred at 0° C. for 30 minutes and then at room temperature for 72 hours. Water and ether were added and the layers separated. The organic layer was washed with brine. The aqueous layer was extracted with ether and the combined organics were dried over magnesium sulfate. Filtration and concentration followed flash chromatography on silica gel (4:1 hexane-ether) provided 4-(4-methylpent-1-ynyl)-2-(methylthio)pyrimidine (4.0 g, 92%) as a clear oil. 1H NMR (CDCl3) δ 8.44 (d, 1H), 6.96 (d, 1H), 2.56 (s, 3H), 2.35 (d, 2H), 1.97 (M, 1H), 1.05 (d, 6H); MS m/z 207 (M+1).

reactant | 4-iodo-2-(methylthio)pyrimidine | 21.2 mmol, 4.73 g | IC1=NC(=NC=C1)SC | C5H5IN2S
reactant | triethylamine | 63.8 mmol, 8.8 mL | C(C)N(CC)CC | C6H15N
reactant | 4-Methyl-pentyne | 42.5 mmol, 5.0 mL | CC(CC#C)C | C6H10
reactant | Water | O | H2O
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
catalyst | copper (I) iodide | 2.12 mmol, 404 mg | [Cu]I
solvent | ether | CCOCC | C4H10O
product | 4-(4-methylpent-1-ynyl)-2-(methylthio)pyrimidine | 4.0 g, 92% | CC(CC#CC1=NC(=NC=C1)SC)C | C11H14N2S
